US06593388B2
Into a 500 mL round bottom flask fitted with a mechanical stirrer, addition funnel, reflux condenser and nitrogen inlet were placed 12 g of sodium hydride (60% dispersion in mineral oil) and 30 mL of THF. Carbazole (33.4 g, 0.2 mole) was dissolved in 200 mL THF and the pale yellow solution was added dropwise to the reaction mixture while stirring and maintaining the temperature at 35˜40° C. Thereafter, 36.2 g (0.3 mole) of allyl bromide was added drop wise to the reaction mixture and stirring continued for an additional 15 minutes. Tetra-n-butyl ammonium bromide (1.3 g) was added followed by stirring for 20 minutes, and then the temperature was raised to 65° C. and kept at that temperature overnight. The reaction mixture was cooled to room temperature and after filtration, the solvent was removed using a rotary evaporator. The resulting yellow solid was twice recrystallized from methanol to give 34 g (81% yield) of colorless crystalline 9-allyl carbazole m.p. 53-54° C.

reactant | sodium hydride | 12 g | [H-].[Na+]
reactant | Carbazole | 0.2 mole, 33.4 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | allyl bromide | 0.3 mole, 36.2 g | C(C=C)Br | C3H5Br
solvent | THF | 200 mL | C1CCOC1 | C4H8O
catalyst | Tetra-n-butyl ammonium bromide | 1.3 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 9-allyl carbazole | 34 g, 81% yield | C(C=C)N1C2=CC=CC=C2C=2C=CC=CC12 | C15H13N
